US08071584B2
5-Bromo-3-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-1H-indole-7-carboxamide
To a solution of 5-bromo-3-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-1H-indole-7-carboxylic acid (1.2 g, 3.22 mmol) in CH2Cl2 (100 mL) was added Et3N (650 mg, 6.44 mmol), TBTU (2.1 g, 6.44 mmol), and NH3/MeOH (10 mL). The mixture was stirred for 2 hours at room temperature. The reaction solution was washed with water, and the organic phase was dried (MgSO4), concentrated, and purified by column chromatography on silica gel, giving 770 mg (65%) of the title compound.

reactant | 5-bromo-3-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-1H-indole-7-carboxylic acid | 3.22 mmol, 1.2 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)CC1CCS(CC1)(=O)=O | C15H16BrNO4S
reactant | Et3N | 6.44 mmol, 650 mg | CCN(CC)CC | C6H15N
reactant | TBTU | 6.44 mmol, 2.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NH3 MeOH | 10 mL | N.CO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-3-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-1H-indole-7-carboxamide | 770 mg, 65% | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)CC1CCS(CC1)(=O)=O | C15H17BrN2O3S
